US05650092
Preparation of (3,4,5-trifluorophenyl) trans-4-n-heptyl-4-silacyclohexanecarboxylate
The general procedure of Example 3 was repeated using 3,4,5-trifluorophenol and 4-n-heptyl-4-phenyl-4-silacyclohexanecarboxylic acid, thereby obtaining the intended product.

reactant | 3,4,5-trifluorophenol | FC=1C=C(C=C(C1F)F)O | C6H3F3O
reactant | 4-n-heptyl-4-phenyl-4-silacyclohexanecarboxylic acid | C(CCCCCC)[Si]1(CCC(CC1)C(=O)O)C1=CC=CC=C1 | C19H30O2Si
product | (3,4,5-trifluorophenyl) trans-4-n-heptyl-4-silacyclohexanecarboxylate | C(CCCCCC)[Si@@H]1CC[C@H](CC1)C(=O)OC1=CC(=C(C(=C1)F)F)F | C19H27F3O2Si
